US07294622B2
a. erythro Ethyl 2-hydroxy-3-(4-methoxy-2-nitrophenoxy)-3-phenylpropanoate (68a)
To a stirred mixture of 4-methoxy-2-nitrophenol (11.87 g, 70 mmol), ethyl 3-phenyloxirane-2-carboxylate (10.39 g, 54 mmol) and ethanol (175 mL) was added portionwise 60% sodium hydride (0.65 g, 16 mmol) and the red mixture stirred at reflux for 9 days. The solvent was removed in vacuo, the residue dissolved in ethyl acetate and extracted three times with 10% aqueous potassium carbonate. The organic layer was washed with water and brine, dried (MgSO4), filtered and the solvent stripped in-vacuo to yield an oil. Column chromatography (dichloromethane then 5% methanol/dichloromethane) afforded (9.5 g, 49%) of slightly impure title compound that was used in the next step without further purification. 1H NMR (300 MHz, CDCl3) δ1.21 (t, 3H) 3.25 (d, 1H, J=7.5 Hz) 3.77 (s, 3H), 4.20 (q, 2H) 4.67 (q, 1H, J=3.5, 7.5 Hz), 5.51 (d, 1H, J=3.5 Hz), 6.82 (d, 1H, J=9.2 Hz), 6.92 (dd, 1H, J=9.2, 3.0 Hz), 7.3-7.4 (m, 6H). HPLC (Method A): 3.24 min

reactant | 4-methoxy-2-nitrophenol | 70 mmol, 11.87 g | COC1=CC(=C(C=C1)O)[N+](=O)[O-] | C7H7NO4
reactant | ethyl 3-phenyloxirane-2-carboxylate | 54 mmol, 10.39 g | C1(=CC=CC=C1)C1C(O1)C(=O)OCC | C11H12O3
reactant | ethanol | 175 mL | C(C)O | C2H6O
reactant | sodium hydride | 16 mmol, 0.65 g | [H-].[Na+]
solvent | methanol dichloromethane | CO.ClCCl
solvent | dichloromethane | ClCCl | CH2Cl2
product | Ethyl 2-hydroxy-3-(4-methoxy-2-nitrophenoxy)-3-phenylpropanoate | OC(C(=O)OCC)C(C1=CC=CC=C1)OC1=C(C=C(C=C1)OC)[N+](=O)[O-] | C18H19NO7
